US08957049B2
4-Bromo-3-fluoroiodobenzene (250 mg, 0.8 mmol, 1.2 eq.), indole-4-boronic acid (110 mg, 0.7 mmol), potassium acetate (70 mg, 1 eq.), Pd(dppf)Cl2 (70 mg, 0.1 eq.), and Cs2CO3 (700 mg, 3 eq.) in DMSO (5 mL) were heated under argon at 80° C. during 1 h. The reaction mixture was extracted from water into ether, dried Na2SO4, concentrated, and chromatographed on silica gel (5→15% EtOAc/hexanes) to give 4-(4-bromo-3-fluorophenyl)indole (164 mg, 83%).

reactant | 4-Bromo-3-fluoroiodobenzene | 0.8 mmol, 250 mg, 1.2 eq. | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
reactant | indole-4-boronic acid | 0.7 mmol, 110 mg | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
reactant | potassium acetate | 70 mg, 1 eq. | C(C)(=O)[O-].[K+]
reactant | Cs2CO3 | 700 mg, 3 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 70 mg, 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-bromo-3-fluorophenyl)indole | 164 mg, 83% | BrC1=C(C=C(C=C1)C1=C2C=CNC2=CC=C1)F | C14H9BrFN
